US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid 2-chloro-4-cyano-benzylamide (10)
In a sealed tube, 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid (4-bromo-2-chloro-benzyl)-methoxymethyl-amide (0.30 g, 0.65 mmol), Pd2(dba)3 (40.0 mg, 0.440 mmol), dppf (44 mg, 0.079 mmol), Zn(CN)2 (77 mg, 0.66 mmol), and Zn (10.5 mg, 0.160 mmol) were dissolved in anhydrous DMF (3 mL). The mixture was warmed at 120° C. for 3 hours. The mixture cooled to room temperature, and diluted with saturated aqueous ammonium chloride (20 mL), extracted with ethyl acetate (20 mL), washed with brine (30 mL), and dried over sodium sulfate. The crude was purified by silica gel chromatography eluting with a gradient of 0-70% ethyl acetate in hexanes to afford the title compound as a white powder.

reactant | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid (4-bromo-2-chloro-benzyl)-methoxymethyl-amide | 0.65 mmol, 0.30 g | BrC1=CC(=C(CN(C(=O)C=2C=3C=NN(C3C=CC2)C2=CC=C(C=C2)F)COC)C=C1)Cl | C23H18BrClFN3O2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ammonium chloride | 20 mL | [Cl-].[NH4+]
catalyst | Pd2(dba)3 | 0.440 mmol, 40.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.079 mmol, 44 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Zn(CN)2 | 0.66 mmol, 77 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn | 0.160 mmol, 10.5 mg | [Zn] | Zn
product | 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid 2-chloro-4-cyano-benzylamide | ClC1=C(CNC(=O)C=2C=3C=NN(C3C=CC2)C2=CC=C(C=C2)F)C=CC(=C1)C#N | C22H14ClFN4O
